US04272525
A. N-Trifluoroacetylglycyloxy Succinimide
N-Trifluoroacetylglycine (684 mg) and N-hydroxysuccinimide (480 mg) in 5 ml of dry CH2Cl2 at 50° C. are treated with a solution of 915 mg dicyclohexylcarbodiimide (4.43 mmol) in 5 ml of CH2Cl2. The mixture is stirred at room temperature overnight, is then filtered and evaporated to produce the named compound which can be used in subsequent reactions without further purification.

reactant | N-Trifluoroacetylglycine | 684 mg | FC(C(=O)NCC(=O)O)(F)F | C4H4F3NO3
reactant | N-hydroxysuccinimide | 480 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 4.43 mmol, 915 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-Trifluoroacetylglycyloxy Succinimide | FC(C(=O)NCC(=O)OC1C(=O)NC(C1)=O)(F)F | C8H7F3N2O5
